reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:5]/[C:4](=[C:2](/[O:3][H:11])[H:10])[C:6]([H:12])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9],72.749641715594
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[C:3](=[N+:4](\[C:5]([O-:6])=[C:7]([H:16])[H:18])[H:15])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:17],93.4181384928683
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C@:2]1([O:3][H:12])[C:4]([H:10])([H:11])[C@:5]1([C:6]([O:7][H:16])([H:14])[H:15])[H:13])([H:8])[H:9],79.4058125706082
[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7]>>[O:1]([C@@:2]1([H:8])[C@@:3]([O+:6]=[C-:5][H:10])([H:9])[O:4]1)[H:7],99.9710232014657
[C:1](=[O+:2][C:3](=[C:4]=[N-:5])[H:9])([H:6])[H:7].[H:8][H:10]>>[C:1]([O:2][C:3]([C:4]#[N:5])([H:9])[H:10])([H:6])([H:7])[H:8],6.855946060510689
[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]1([H:12])[H:13]>>[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4][C:5]1([H:12])[H:13],67.29096663496321
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[C:4](=[C:5]([H:14])[H:15])[C:7]1([H:16])[H:17])([O:6][H:8])([H:9])[H:10],112.214120693098
[C:1]([C:2](=[O:3])[C:4](=[O:5])[H:9])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([O:3][H:6])[C:4](=[O:5])[H:9])([H:7])[H:8],68.36877056509971
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4][C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],71.05079799323609
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[O:4][H:13])[H:12])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15].[H:10][H:16],89.05118208654372
[O:1]1[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C@:4]1([O:5][H:8])[C:6]([O:7][H:15])([H:13])[H:14]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],33.5447479440249
[C:1]([N:2]=[C:3]=[N:4][H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:12]>>[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],71.0994800289233
[O:1]([C:2]1([C:5](=[O:6])[H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([C:2]1=[C:5]([H:12])[O:6][C:4]([H:10])([H:11])[C:3]1([H:8])[H:9])[H:7],59.47114798733911
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2>>[C:1](=[C:3]1[C:2]([H:9])([H:10])[O:6][C:5]([H:13])([H:14])[C:4]1([H:11])[H:12])([H:7])[H:8],74.515814920742
[C:1](/[C:2](=[C:3](\[C:4]([H:13])([H:14])[H:15])[C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:10])([H:7])([H:8])[H:9].[H:11][H:12]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],81.9857492263787
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[N:6]([H:13])[C:5][C:4]1([H:14])[H:15])([H:7])([H:8])[H:9],97.48175993500351
[C:1]([C:2]([O+:4]=[C-:3][N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],54.58297733911639
[C:1]([C@@:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10].[O:5]([H:12])[H:16]>>[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],56.2123596755329
[C:1](=[C:2]([C:6]#[N:7])[H:11])([H:8])[H:9].[C:3](=[C:4]([O:5][H:10])[H:14])([H:12])[H:13]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],29.050836051317894
[C:1]([O:2][H:13])([H:6])([H:7])[H:8].[C:3]1([H:9])([H:10])[C:4]([H:11])([H:12])[O:5]1>>[C:1]([O:2][C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],54.80726470526639
[O:1]=[C:2]([O:7]/[C:6](=[N:5]\[C:3](=[C:4]([H:10])[H:11])[H:9])[H:12])[H:8]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],69.05964537258265
[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7]>>[H:7][H:8].[O:1]=[C:2]=[N:3][C:4]([C:5]#[N:6])([H:9])[H:10],79.6671350253196
[N:1](=[C:2]=[C:3]([C:4](=[C:5]([O:6][H:11])[H:10])[H:9])[H:8])[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7],50.16590464276919
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],58.2276745808862
